US04610987
65 g of 5-chloro-2-nitrobenzonitrile was dissolved in 150 ml of dimethylformamide, and 150 ml of a 50% aqueous solution of dimethylamine was added thereto. After cooling the heat generated, the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the precipitate thus formed was collected by filtration, washed with water and then with methanol to obtain 64.5 g of 5-dimethylamino-2-nitrobenzonitrile (melting point: 174°-175° C.).

reactant | 5-chloro-2-nitrobenzonitrile | 65 g | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-dimethylamino-2-nitrobenzonitrile | 64.5 g | CN(C=1C=CC(=C(C#N)C1)[N+](=O)[O-])C | C9H9N3O2
